### PR TITLE
feat: notations of left moves and right moves

### PR DESCRIPTION
**Pull request by astrainfinita**
Also use a better parameter order in `moves`.

I have not removed `leftMoves` and `rightMoves` yet, as the refactoring to replace the lemmas about `leftMoves` and `rightMoves` with general lemmas about `moves` has not been completed.

### CODE REVIEW

**Comment by vihdzp** [comment]
I like this, but I'd also like to see this PR use this notation throughout all relevant files, just to make sure that it works properly and doesn't conflict with anything.

**Comment by vihdzp** [comment]
Could you merge master, and implement this change throughout the codebase? Thanks!

File: CombinatorialGames/Game/IGame.lean [hunk 1]
```diff
@@ -117,10 +117,10 @@ instance : OfSets IGame fun _ ↦ True where
 def moves (p : Player) (x : IGame.{u}) : Set IGame.{u} := x.dest.1 p
```
Comment (vihdzp) [inline CombinatorialGames/Game/IGame.lean:117]: What do you mean "use a better parameter order"? The order seems unchanged (and I think this is the best order already).

File: CombinatorialGames/Game/IGame.lean [hunk 2]
```diff
@@ -133,15 +133,15 @@ theorem moves_ofSets (p) (st : Player → Set IGame) [Small.{u} (st left)] [Smal
 theorem ofSets_moves (x : IGame) : !{x.moves} = x := x.mk_dest
 
 @[simp, game_cmp]
-theorem leftMoves_ofSets (s t : Set IGame) [Small.{u} s] [Small.{u} t] : !{s | t}.leftMoves = s :=
+theorem leftMoves_ofSets (s t : Set IGame) [Small.{u} s] [Small.{u} t] : !{s | t}ᴸ = s :=
```
Comment (vihdzp) [inline CombinatorialGames/Game/IGame.lean:136]: Since there's no longer a definition named `leftMoves`, I think this lemma should be renamed to `moves_left_ofSets` (and likewise throughout). You should do this in a follow-up PR.

File: CombinatorialGames/Game/IGame.lean [hunk 3]
```diff
@@ -171,7 +171,7 @@ def IsOption (x y : IGame) : Prop :=
 
 @[aesop simp]
 lemma isOption_iff_mem_union {x y : IGame} :
-    IsOption x y ↔ x ∈ y.leftMoves ∪ y.rightMoves := by
+    IsOption x y ↔ x ∈ yᴸ ∪ yᴿ := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/IGame.lean]: You can merge this with the previous line.

File: CombinatorialGames/Game/IGame.lean [hunk 4]
```diff
@@ -448,24 +448,24 @@ def delabFuzzy : Delab := do
...
 
 theorem equiv_of_forall_lf {x y : IGame}
-    (hl₁ : ∀ a ∈ x.leftMoves,  ¬y ≤ a)
-    (hr₁ : ∀ a ∈ x.rightMoves, ¬a ≤ y)
-    (hl₂ : ∀ b ∈ y.leftMoves,  ¬x ≤ b)
-    (hr₂ : ∀ b ∈ y.rightMoves, ¬b ≤ x) : x ≈ y := by
+    (hl₁ : ∀ a ∈ xᴸ,  ¬y ≤ a)
+    (hr₁ : ∀ a ∈ xᴿ, ¬a ≤ y)
+    (hl₂ : ∀ b ∈ yᴸ,  ¬x ≤ b)
+    (hr₂ : ∀ b ∈ yᴿ, ¬b ≤ x) : x ≈ y := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/IGame.lean]:
```suggestion
    (hl₁ : ∀ a ∈ xᴸ, a ⧏ y) (hr₁ : ∀ a ∈ xᴿ, y ⧏ a)
    (hl₂ : ∀ b ∈ yᴸ, b ⧏ x) (hr₂ : ∀ b ∈ yᴿ, x ⧏ b) : x ≈ y := by
```

File: CombinatorialGames/Game/IGame.lean [hunk 5]
```diff
@@ -448,24 +448,24 @@ def delabFuzzy : Delab := do
...
 
 theorem equiv_of_exists_le {x y : IGame}
-    (hl₁ : ∀ a ∈ x.leftMoves,  ∃ b ∈ y.leftMoves,  a ≤ b)
-    (hr₁ : ∀ a ∈ x.rightMoves, ∃ b ∈ y.rightMoves, b ≤ a)
-    (hl₂ : ∀ b ∈ y.leftMoves,  ∃ a ∈ x.leftMoves,  b ≤ a)
-    (hr₂ : ∀ b ∈ y.rightMoves, ∃ a ∈ x.rightMoves, a ≤ b) : x ≈ y := by
+    (hl₁ : ∀ a ∈ xᴸ,  ∃ b ∈ yᴸ,  a ≤ b)
+    (hr₁ : ∀ a ∈ xᴿ, ∃ b ∈ yᴿ, b ≤ a)
+    (hl₂ : ∀ b ∈ yᴸ,  ∃ a ∈ xᴸ,  b ≤ a)
+    (hr₂ : ∀ b ∈ yᴿ, ∃ a ∈ xᴿ, a ≤ b) : x ≈ y := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/IGame.lean]:
```suggestion
    (hl₁ : ∀ a ∈ xᴸ, ∃ b ∈ yᴸ, a ≤ b) (hr₁ : ∀ a ∈ xᴿ, ∃ b ∈ yᴿ, b ≤ a)
    (hl₂ : ∀ b ∈ yᴸ, ∃ a ∈ xᴸ, b ≤ a) (hr₂ : ∀ b ∈ yᴿ, ∃ a ∈ xᴿ, a ≤ b) : x ≈ y := by
```

File: CombinatorialGames/Game/IGame.lean [hunk 6]
```diff
@@ -448,24 +448,24 @@ def delabFuzzy : Delab := do
...
 
 theorem equiv_of_exists {x y : IGame}
-    (hl₁ : ∀ a ∈ x.leftMoves,  ∃ b ∈ y.leftMoves,  a ≈ b)
-    (hr₁ : ∀ a ∈ x.rightMoves, ∃ b ∈ y.rightMoves, a ≈ b)
-    (hl₂ : ∀ b ∈ y.leftMoves,  ∃ a ∈ x.leftMoves,  a ≈ b)
-    (hr₂ : ∀ b ∈ y.rightMoves, ∃ a ∈ x.rightMoves, a ≈ b) : x ≈ y := by
+    (hl₁ : ∀ a ∈ xᴸ,  ∃ b ∈ yᴸ,  a ≈ b)
+    (hr₁ : ∀ a ∈ xᴿ, ∃ b ∈ yᴿ, a ≈ b)
+    (hl₂ : ∀ b ∈ yᴸ,  ∃ a ∈ xᴸ,  a ≈ b)
+    (hr₂ : ∀ b ∈ yᴿ, ∃ a ∈ xᴿ, a ≈ b) : x ≈ y := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/IGame.lean]:
```suggestion
    (hl₁ : ∀ a ∈ xᴸ, ∃ b ∈ yᴸ, a ≈ b) (hr₁ : ∀ a ∈ xᴿ, ∃ b ∈ yᴿ, a ≈ b)
    (hl₂ : ∀ b ∈ yᴸ, ∃ a ∈ xᴸ, a ≈ b) (hr₂ : ∀ b ∈ yᴿ, ∃ a ∈ xᴿ, a ≈ b) : x ≈ y := by
```

File: CombinatorialGames/Game/IGame.lean [hunk 7]
```diff
@@ -605,8 +605,8 @@ instance : Add IGame where
   add := add'
 
 theorem add_eq (x y : IGame) : x + y =
-    !{(· + y) '' x.leftMoves ∪ (x + ·) '' y.leftMoves |
-      (· + y) '' x.rightMoves ∪ (x + ·) '' y.rightMoves} := by
+    !{(· + y) '' xᴸ ∪ (x + ·) '' yᴸ |
+      (· + y) '' xᴿ ∪ (x + ·) '' yᴿ} := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/IGame.lean]:
```suggestion
    !{(· + y) '' xᴸ ∪ (x + ·) '' yᴸ | (· + y) '' xᴿ ∪ (x + ·) '' yᴿ} := by
```

File: CombinatorialGames/Game/IGame.lean [hunk 8]
```diff
@@ -952,16 +952,16 @@ def mulOption (x y a b : IGame) : IGame :=
 
 theorem mul_eq (x y : IGame) : x * y =
     !{(fun a ↦ mulOption x y a.1 a.2) ''
-      (x.leftMoves ×ˢ y.leftMoves ∪ x.rightMoves ×ˢ y.rightMoves) |
+      (xᴸ ×ˢ yᴸ ∪ xᴿ ×ˢ yᴿ) |
```
Comment (vihdzp) [inline CombinatorialGames/Game/IGame.lean]: GitHub won't let me add the suggestion, but this should be merged with the previous line.

File: CombinatorialGames/Game/Impartial/Basic.lean [hunk 9]
```diff
@@ -89,8 +89,8 @@ protected instance star : Impartial ⋆ := by
 protected instance neg (x : IGame) [Impartial x] : Impartial (-x) := by
   apply mk
   · simp
-  on_goal 1 => rw [leftMoves, moves_neg]
-  on_goal 2 => rw [rightMoves, moves_neg]
+  on_goal 1 => rw [moves_neg]
```
Comment (vihdzp) [inline CombinatorialGames/Game/Impartial/Basic.lean]: You can put this below `all_goals`.

File: CombinatorialGames/Game/Impartial/Basic.lean [hunk 10]
```diff
@@ -104,8 +104,8 @@ protected instance add (x y : IGame) [Impartial x] [Impartial y] : Impartial (x
   apply mk
   · rw [neg_add]
     exact add_congr (neg_equiv x) (neg_equiv y)
-  on_goal 1 => rw [leftMoves, moves_add]
-  on_goal 2 => rw [rightMoves, moves_add]
+  on_goal 1 => rw [moves_add]
```
Comment (vihdzp) [inline CombinatorialGames/Game/Impartial/Basic.lean]: Same here.

File: CombinatorialGames/Game/Loopy/Basic.lean [hunk 11]
```diff
@@ -100,7 +100,7 @@ def IsOption (x y : LGame) : Prop :=
 
 @[aesop simp]
 lemma isOption_iff_mem_union {x y : LGame} :
-    IsOption x y ↔ x ∈ y.leftMoves ∪ y.rightMoves := by
+    IsOption x y ↔ x ∈ yᴸ ∪ yᴿ := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/Basic.lean]: Should be merged into previous line.

File: CombinatorialGames/Game/Loopy/Basic.lean [hunk 12]
```diff
@@ -309,13 +309,13 @@ theorem moves_ofSets (p : Player) (lr : Player → Set LGame.{u})
 
 @[simp]
 theorem leftMoves_ofSets (l r : Set LGame) [Small.{u} l] [Small.{u} r] :
-    !{l | r}.leftMoves = l := by
-  rw [leftMoves, moves_ofSets]
+    !{l | r}ᴸ = l := by
+  rw [moves_ofSets]
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/Basic.lean]: I think it's a bit more explicit to write this down like this (removing `by` in the previous line):
```suggestion
  moves_ofSets ..
```

File: CombinatorialGames/Game/Short.lean [hunk 13]
```diff
@@ -36,16 +36,16 @@ theorem short_def {x : IGame} : Short x ↔
   simp_rw [short_iff_aux]; rw [ShortAux]
 
 theorem short_def' {x : IGame} : Short x ↔
-    x.leftMoves.Finite ∧ x.rightMoves.Finite ∧
-      (∀ y ∈ x.leftMoves, Short y) ∧ (∀ y ∈ x.rightMoves, Short y) := by
+    xᴸ.Finite ∧ xᴿ.Finite ∧
+      (∀ y ∈ xᴸ, Short y) ∧ (∀ y ∈ xᴿ, Short y) := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/Short.lean]:
```suggestion
    xᴸ.Finite ∧ xᴿ.Finite ∧ (∀ y ∈ xᴸ, Short y) ∧ (∀ y ∈ xᴿ, Short y) := by
```

File: CombinatorialGames/Game/Small.lean [hunk 14]
```diff
@@ -34,26 +34,26 @@ class Dicotic (x : IGame) : Prop where of_DicoticAux ::
...
 theorem dicotic_def {x : IGame} : Dicotic x ↔
-    (x.leftMoves = ∅ ↔ x.rightMoves = ∅) ∧ (∀ p, ∀ l ∈ x.moves p, Dicotic l) := by
+    (xᴸ = ∅ ↔ xᴿ = ∅) ∧ (∀ p, ∀ l ∈ x.moves p, Dicotic l) := by
   simp_rw [dicotic_iff_aux]; rw [DicoticAux]
 
 theorem dicotic_def' {x : IGame} : Dicotic x ↔
-    (x.leftMoves = ∅ ↔ x.rightMoves = ∅) ∧
-      (∀ l ∈ x.leftMoves, Dicotic l) ∧ (∀ r ∈ x.rightMoves, Dicotic r) := by
+    (xᴸ = ∅ ↔ xᴿ = ∅) ∧
+      (∀ l ∈ xᴸ, Dicotic l) ∧ (∀ r ∈ xᴿ, Dicotic r) := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/Small.lean]:
```suggestion
    (xᴸ = ∅ ↔ xᴿ = ∅) ∧ (∀ l ∈ xᴸ, Dicotic l) ∧ (∀ r ∈ xᴿ, Dicotic r) := by
```

File: CombinatorialGames/Surreal/Cut.lean [hunk 15]
```diff
@@ -386,29 +386,29 @@ theorem leftSurreal_mem_of_sSup_eq {s : Set Cut.{u}} {x : Surreal} [Small.{u} s]
 If `infRight x ≤ supLeft x` then `leftGame x = supLeft x` and `rightGame x = infRight x`; otherwise,
 `x` is equivalent to the simplest surreal between `supLeft x` and `infRight x`. -/
 def supLeft (x : IGame) : Cut :=
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Cut.lean:388]: TODO: I think this file would be a great candidate for symmetrization.

File: CombinatorialGames/Game/IGame.lean (hunk 1 above)
Comment (astrainfinita) [reply CombinatorialGames/Game/IGame.lean:117]: Oh, I made the same changes in another PR after this one, but I didn't update the PR description.
